US06355641B1
To a solution of 4-ethoxymethylene-2-naphthalen-1-yl-4H-oxazol-5-one (11.40 g, 43 mmol) in tetrahydrofuran, benzylidene-piperidin-4-ylmethyl-amine (8.60 g, 43 mmol) was added, and the mixture was stirred at room temperature for 24 h. The reaction mixture was concentrated under reduced pressure to yield 4-{4-[(benzylidene-amino)-methyl]-piperidin-1-ylmethylene}-2-naphthalen-1-yl-4H-oxazol-5-one.

reactant | 4-ethoxymethylene-2-naphthalen-1-yl-4H-oxazol-5-one | 43 mmol, 11.40 g | C(C)OC=C1N=C(OC1=O)C1=CC=CC2=CC=CC=C12 | C16H13NO3
reactant | benzylidene-piperidin-4-ylmethyl-amine | 43 mmol, 8.60 g | C(C1=CC=CC=C1)=NCC1CCNCC1 | C13H18N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-{4-[(benzylidene-amino)-methyl]-piperidin-1-ylmethylene}-2-naphthalen-1-yl-4H-oxazol-5-one | C(C1=CC=CC=C1)=NCC1CCN(CC1)C=C1N=C(OC1=O)C1=CC=CC2=CC=CC=C12 | C27H25N3O2
